US07484679B2
To a mixed aqueous solution of 20 g of commercially available 25% tetramethylammonium hydroxide and 165 g of pure water, 21 g of 95% tetraethoxysilane was added with stirring by disper to obtain tetramethylammonium hydroxide silicate aqueous solution being an alkaline silicate having pH of 12.8, conductivity of 8110 μm/S and SiO2 concentration of 2.9% by weight.

reactant | tetramethylammonium hydroxide | [OH-].C[N+](C)(C)C
reactant | tetraethoxysilane | 21 g | C(C)O[Si](OCC)(OCC)OCC | C8H20O4Si
solvent | water | 165 g | O | H2O
product | tetramethylammonium hydroxide silicate | [Si]([O-])([O-])([O-])[O-].[OH-].C[N+](C)(C)C.C[N+](C)(C)C.C[N+](C)(C)C.C[N+](C)(C)C.C[N+](C)(C)C | InChI=1S/5C4H12N.O4Si.H2O/c6*1-5(2,3)4;/h5*1-4H3;;1H2/q5*+1;-4;/p-1
